US07470689B2
e) 6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-4-chlorophenyl)amide
A solution of 110 mg of 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid, 2 ml of DMF and 0.17 ml of triethylamine is mixed with 192 mg of Hatu and stirred at room temperature for 30 minutes. Then 66 mg of 4-chloro-phenylenediamine are added, and the mixture is stirred at room temperature overnight. 5 ml of water are added to the mixture, and the precipitate is briefly stirred and then filtered off with suction and dried.

reactant | 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | 110 mg | C(C)NC1=NC=CC(=N1)C=1C=C(C(NN1)=O)C(=O)O | C11H11N5O3
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-phenylenediamine | 66 mg | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
solvent | water | 5 ml | O | H2O
product | 6-(2-Ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-4-chlorophenyl)amide | NC1=C(C=CC(=C1)Cl)NC(=O)C=1C(NN=C(C1)C1=NC(=NC=C1)NCC)=O | C17H16ClN7O2
